**** phyrespoly with no cap and external diodes transient characteristic ****

* This choice of conductance coefficients should result in positive resistor
* values for Vctrl down to about -5V for polyarg = true or false.

.tran2 tstop=4E-6 tstep=2E-8

resistor:r1 1 2 r = 1000.0
resistorphypoly:r2 2 3 0 r=1000.0 coeff0=1.0 coeff1=0.1 coeff2=0.0 coeff3=0.002 coeff4=0.0
+ coeff5=0.00004 polyarg=0 tc1=0.0 tc2=0.0 tc1c=0.0 tc2c=0.0 tnom=300.0 tdev=300.0 c=0.0
resistor:r3 3 0 r = 1000.0
d:d1 2 0 is=1E-14 n=1.0 ibv=1.0E-10 bv=0.0 fc=0.5 cj0=1.0E-10 vj=1.0 m=0.5 tt=0.0 area=1.0 charge=0 rs=0.0
d:d2 3 0 is=1E-14 n=1.0 ibv=1.0E-10 bv=0.0 fc=0.5 cj0=1.0E-10 vj=1.0 m=0.5 tt=0.0 area=1.0 charge=0 rs=0.0
vpulse:vbias 1 0  v1=0 v2=-3.0 td=0 tr=0 tf=0 pw=1E-6 per=2E-6

.out write term 1 vt in "n_tran2_vt1.out"
.out write term 2 vt in "n_tran2_vt2.out"
.out write term 3 vt in "n_tran2_vt3.out"

.end
